US04086213
Bis(morpholinomethyl)-acetic acid was prepared conventionally in a flask equipped with a stirrer and reflux condenser by first changing 0.1 moles of malonic acid, 0.2 moles morpholine, and 100 cc water. The contents were warmed to a temperature of about 20° C and then 0.2 moles formaldehyde as a 40% aqueous solution were added to the flask and the reaction commenced. When the evolution of carbon dioxide ceased, the water was removed from the reaction mixture by coupling the flask to a vacuum source and heating to a temperature of about 50° C. The syrupy residue remaining in the flask then was triturated in acetone and the resulting white crystalline solid isolated by filtration. The melting point of the product was about 129°-130° C.

reactant | malonic acid | 0.1 moles | C(CC(=O)O)(=O)O | C3H4O4
reactant | morpholine | 0.2 moles | N1CCOCC1 | C4H9NO
reactant | formaldehyde | 0.2 moles | C=O | CH2O
reactant | carbon dioxide | C(=O)=O | CO2
solvent | water | 100 cc | O | H2O
product | Bis(morpholinomethyl)-acetic acid | O1CCN(CC1)CC(C(=O)O)CN1CCOCC1 | C12H22N2O4
